US06624159B2
N-(4-Chlorobenzyl)-5-iodo-1-methyl-7-oxo-2,3-dihydro-1H,7H-pyrido[3,2,1-ij]cinnoline-8-carboxamide [AM.8, Y=iodo, X=chloro]
A solution of 5-Iodo-1-methyl-7-oxo-2,3-dihydro-1H,7H-pyrido[3,2,1-ij]cinnoline-8-carboxylic acid (Preparation 39, 0.900 g) in tetrahydrofuran (25 mL) is refluxed with 1,1′-carbonyldiimidazole (0.631 g) for 5 h. The reaction mixture is cooled to room temperature and treated with 4-chlorobenzylamine (0.828 g). The reaction mixture is diluted with ether (75 mL), filtered, and the filtrate is concentrated at reduced pressure. The crude product is purified by chromatography, using 75 g of silica gel packed and eluted with EtOAc-CH2Cl2-heptane (1:4:5), to afford the title compound. Physical characteristics: 1H NMR (CDCl3) δ8.91, 8.70, 7.87, 7.32, 4.65, 3.51, 3.13, 2.90; MS (ESI+) m/z 494.0; HRMS (FAB) m/z 494.0142 (C20H17ClIN3O2+H); TLC (silica gel GF): Rf=0.27 EtOAc/CH2Cl2 (1/6).

reactant | 5-Iodo-1-methyl-7-oxo-2,3-dihydro-1H,7H-pyrido[3,2,1-ij]cinnoline-8-carboxylic acid | 0.900 g | IC=1C=C2CCN(N3C2=C(C1)C(C(=C3)C(=O)O)=O)C | C13H11IN2O3
reactant | 1,1′-carbonyldiimidazole | 0.631 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-chlorobenzylamine | 0.828 g | ClC1=CC=C(CN)C=C1 | C7H8ClN
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | ether | 75 mL | CCOCC | C4H10O
product | N-(4-Chlorobenzyl)-5-iodo-1-methyl-7-oxo-2,3-dihydro-1H,7H-pyrido[3,2,1-ij]cinnoline-8-carboxamide | ClC1=CC=C(CNC(=O)C=2C(C=3C=C(C=C4CCN(N(C34)C2)C)I)=O)C=C1 | C20H17ClIN3O2
